US05670503
A mixture of 2-(4-acetoxybenzoyl)-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (65 mg, 0.142 mmol) and potassium carbonate (20 mg, 0.142 mmol) in methanol (1.3 ml) was stirred for 30 minutes at ambient temperature. The mixture was adjusted to pH 6 with an aqueous saturated ammonium chloride solution, and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by chromatography on silica gel (eluent:dichloromethane/methanol; 30/1~20/1), and the obtained amorphous product was crystallized from diisopropyl ether to give 7-(4-fluorophenyl)-2-(4-hydroxybenzoyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (37 mg).

reactant | 2-(4-acetoxybenzoyl)-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 0.142 mmol, 65 mg | C(C)(=O)OC1=CC=C(C(=O)N2NC=3N(CC2)N=C(C3C3=CC=NC=C3)C3=CC=C(C=C3)F)C=C1 | C25H20FN5O3
reactant | potassium carbonate | 0.142 mmol, 20 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 1.3 ml | CO | CH4O
product | 7-(4-fluorophenyl)-2-(4-hydroxybenzoyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 37 mg | FC1=CC=C(C=C1)C1=NN2C(NN(CC2)C(C2=CC=C(C=C2)O)=O)=C1C1=CC=NC=C1 | C23H18FN5O2
